US06888032B2
The general procedure in example 39 was followed. 5-Iodo-m-xylene (144 μL, 1.0 mmol), 4-mercaptophenol (126 mg, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 mL) were used to obtain the 4-(3,5-dimethylphenyl)sulfanylphenol (207 mg, 90% yield) as colorless liquid. Workup procedure: ethyl acetate (approx. 5 mL) and dodecane (227 μL, GC standard) were added to the reaction mixture after the reaction was completed. The organic layer was neutralized by dilute HCl to pH 8. The aqueous layer was extracted by ethyl acetate (4×10 mL). The combined organic layers were concentrated and purified by column chromatography on silica gel using hexane/ethyl acetate=10/1 as the eluent to afford the titled product. Rf=0.3 (hexane/ethyl acetate=10/1). 1H NMR (CDCl3, 300 MHz) δ 7.33 (dt, 2 H, J=1.8 Hz, 8.4 Hz), 6.77-6.81 (m, 5 H), 4.83 (s, 1 H), 2.22 (s, 6 H). 13C NMR (CDCl3, 75 MHz) δ 155.6, 138.8, 137.7, 135.4, 128.1, 126.4, 125.3, 116.6, 21.6. IR (neat, cm−1) 3371 (broad), 3031, 2917, 2860. MS (EI) m/z (relative intensity) 230 (100), 215 (20). Anal Cald for C14H14OS, Cald. C, 73.01; H, 6.13. Found C, 73.21; H, 6.11.

reactant | 5-Iodo-m-xylene | 1.0 mmol, 144 μL | IC=1C=C(C=C(C1)C)C | C8H9I
reactant | 4-mercaptophenol | 1.0 mmol, 126 mg | SC1=CC=C(C=C1)O | C6H6OS
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 4-(3,5-dimethylphenyl)sulfanylphenol | 207 mg, 90% yield | CC=1C=C(C=C(C1)C)SC1=CC=C(C=C1)O | C14H14OS
